US07714168B2
To 4-benzyloxy-3-fluoro-5-methoxybenzoic acid were added 20 ml of methanol, 20 ml of ethyl acetate and 50 mg of 10% palladium-carbon, and the mixture was stirred at room temperature for 4 hours under hydrogen atmosphere. Then, the reaction mixture was filtered through Celite. The filtrate was concentrated under reduced pressure to obtain 4.5 g of 3-fluoro-4-hydroxy-5-methoxybenzoic acid represented by the formula:

reactant | 4-benzyloxy-3-fluoro-5-methoxybenzoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1OC)F | C15H13FO4
reactant | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 50 mg | [C].[Pd]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3-fluoro-4-hydroxy-5-methoxybenzoic acid | 4.5 g | FC=1C=C(C(=O)O)C=C(C1O)OC | C8H7FO4
